US07435837B2
Treatment of (±)-[7-(2,4-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (4.2 g, 9.34 mmol) with sodium azide (2.4 g, 37.38 mmol) generally according to the procedure described for Intermediate 98 gave (±)-2-(azidomethyl)-7-(2,4-dichlorophenyl)-2,3-dihydro-1-benzofuran. Treatment of the azide with sulfided platinum on carbon (0.32 g, 5 wt. %) generally according to the procedure described for Example 1 provided 2.16 g (72%) of (±)-1-[7-(2,4-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine as a white solid, hydrochloride salt. mp 198-200° C.; Anal. calcd. for C15H13Cl2NOHCl: C, 54.49; H, 4.27; N, 4.24. Found: C, 54.5; H, 4.39; N, 4.16.

reactant | (±)-[7-(2,4-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 9.34 mmol, 4.2 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=C(C=C(C=C2)Cl)Cl | C22H18Cl2O4S
reactant | sodium azide | 37.38 mmol, 2.4 g | [N-]=[N+]=[N-].[Na+]
product | (±)-2-(azidomethyl)-7-(2,4-dichlorophenyl)-2,3-dihydro-1-benzofuran | N(=[N+]=[N-])CC1OC2=C(C1)C=CC=C2C2=C(C=C(C=C2)Cl)Cl | C15H11Cl2N3O
